US04676911
An acrylanilide sulfate co-polymer was synthesized by first suspending 17.7 g (0.1 mol) of p-hydroxymethacrylanilide in 100 ml of methylene chloride in a suitable glass reaction vessel and then adding 12 g of chlorosulfonic acid to the suspension. Hydrogen chloride gas was observed evolving during the addition; and the reaction mass was mechanically stirred overnight at room temperature. The resultant product was dissolved in a solution of 60 g water and about 10 g of 50% sodium hydroxide, giving a pH of about 11; and methylene chloride was then separated by vacuum. A yield of about 75% of sulfated monomer, observed to be a viscous liquid, was then determined using nuclear magnetic resonance techniques.

reactant | p-hydroxymethacrylanilide | 0.1 mol, 17.7 g | OC1=CC=C(NC(C(=C)C)=O)C=C1 | C10H11NO2
reactant | chlorosulfonic acid | 12 g | ClS(=O)(=O)O | ClHO3S
reactant | Hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | about 10 g | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 60 g | O | H2O
product | acrylanilide sulfate | S(=O)(=O)(O)O.C(C=C)(=O)NC1=CC=CC=C1 | InChI=1S/C9H9NO.H2O4S/c1-2-9(11)10-8-6-4-3-5-7-8;1-5(2,3)4/h2-7H,1H2,(H,10,11);(H2,1,2,3,4)
